US07504411B2
2-Chloro-3-methyl-6-(4-pyrimidyl)-pyrimidin-4-one (223 mg, 1:0 mmol) was added to an ice-cooled solution of 2-(4-fluoro-2-methoxyphenyl)piperazine (210 mg, 1.0 mmol), triethylamine (0.15 ml, 1.1 mmol) in N,N-dimethylformamide (10 ml) and stirred at that temperature for 0.5 hr and then at room temperature for 3 hours. Reaction was quenched by ice-water and the filtrate was washed with water and dried to give 2-(2-(4-fluoro-2-methoxyphenyl)piperazin-4-yl)-3-methyl-6-(4-pyrimidyl)-pyrimidin-4-one (262 mg, 66%).

reactant | 2-Chloro-3-methyl-6-(4-pyrimidyl)-pyrimidin-4-one | 0 mmol, 223 mg | ClC1=NC(=CC(N1C)=O)C1=NC=NC=C1 | C9H7ClN4O
reactant | 2-(4-fluoro-2-methoxyphenyl)piperazine | 1.0 mmol, 210 mg | FC1=CC(=C(C=C1)C1NCCNC1)OC | C11H15FN2O
reactant | triethylamine | 1.1 mmol, 0.15 ml | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 2-(2-(4-fluoro-2-methoxyphenyl)piperazin-4-yl)-3-methyl-6-(4-pyrimidyl)-pyrimidin-4-one | 262 mg, 66% | FC1=CC(=C(C=C1)C1NCCN(C1)C1=NC(=CC(N1C)=O)C1=NC=NC=C1)OC | C20H21FN6O2
